US06071903
As described in Example 65, methyl 4-(4-methoxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate was reacted with 4-(3-methyl-1-pyrazolyl)-2-chlorobenzoyl chloride to give methyl 4-(4-methoxybenzenesulfonyl)-1-[2-chloro-4-(3-methyl-1-pyrazolyl)phenylcarbonyl]-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate as a white solid. Anal. for C29H27ClN4O6S: Calc'd: C, 58.3; H, 4.6; N, 9.4. Found: C,58.2; H, 4.9; N, 8.9.

reactant | methyl 4-(4-methoxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | COC1=CC=C(C=C1)S(=O)(=O)N1C(CNC2=C(C1)C=CC=C2)C(=O)OC | C18H20N2O5S
reactant | 4-(3-methyl-1-pyrazolyl)-2-chlorobenzoyl chloride | CC1=NN(C=C1)C1=CC(=C(C(=O)Cl)C=C1)Cl | C11H8Cl2N2O
product | methyl 4-(4-methoxybenzenesulfonyl)-1-[2-chloro-4-(3-methyl-1-pyrazolyl)phenylcarbonyl]-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | COC1=CC=C(C=C1)S(=O)(=O)N1C(CN(C2=C(C1)C=CC=C2)C(=O)C2=C(C=C(C=C2)N2N=C(C=C2)C)Cl)C(=O)OC | C29H27ClN4O6S
